US06479492B1
N-(4-(N,N-Di-n-hexylamino)-1,1-dioxo-1,2,5-thiadiazol-3-yl)-L-tyrosine tert-butyl ester (100 mg, 0.19 mmol) was dissolved in formic acid and the mixture stirred at room temperature for 36 hrs. Excess formic acid was removed under reduced pressure to yield N-(4-(N,N-Di-n-hexylamino)-1,1-dioxo-1,2,5-thiadiazol-3-yl)-L-tyrosine as a white solid (90 mg, 98%). Anal. Calc'd for C23H36N4O5S: C, 57.48; H, 7.55; N, 11.66. Found: C, 57.04; H, 7.23; N, 11.38.

reactant | N-(4-(N,N-Di-n-hexylamino)-1,1-dioxo-1,2,5-thiadiazol-3-yl)-L-tyrosine tert-butyl ester | 0.19 mmol, 100 mg | C(C)(C)(C)OC([C@@H](NC1=NS(N=C1N(CCCCCC)CCCCCC)(=O)=O)CC1=CC=C(C=C1)O)=O | C27H44N4O5S
solvent | formic acid | C(=O)O | CH2O2
product | N-(4-(N,N-Di-n-hexylamino)-1,1-dioxo-1,2,5-thiadiazol-3-yl)-L-tyrosine | 90 mg, 98% | C(CCCCC)N(CCCCCC)C=1C(=NS(N1)(=O)=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C23H36N4O5S
